US03946112
To 250 ml of isopropanol is added 10.0 g (0.035 mole) of 9-ethylcarbazole-3,6-dicarboxylic acid, 21.2 g (0.14 mole) of 3-diethylaminopropylchloride and 0.5 ml of 60% aqueous benzyltrimethylammonium chloride. The solution is heated at reflux for 2 hours with stirring and then allowed to stir overnight at room temperature. Addition of ether to the reaction mixture gives a crystalline product which is recrystallized twice from methanol-acetone to give bis(3-diethylaminopropyl)-9-ethylcarbazole-3,6-dicarboxylate dihydrochloride. M.P. 233°-234°C.

reactant | isopropanol | 250 ml | C(C)(C)O | C3H8O
reactant | 9-ethylcarbazole-3,6-dicarboxylic acid | 0.035 mole, 10.0 g | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(=O)O)C(=O)O | C16H13NO4
reactant | 3-diethylaminopropylchloride | 0.14 mole, 21.2 g | C(C)N(CCCCl)CC | C7H16ClN
catalyst | benzyltrimethylammonium chloride | 0.5 ml | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | ether | CCOCC | C4H10O
product | bis(3-diethylaminopropyl)-9-ethylcarbazole-3,6-dicarboxylate dihydrochloride | Cl.Cl.C(C)N(CCCOC(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(=O)OCCCN(CC)CC)CC)CC | InChI=1S/C30H43N3O4.2ClH/c1-6-31(7-2)17-11-19-36-29(34)23-13-15-27-25(21-23)26-22-24(14-16-28(26)33(27)10-5)30(35)37-20-12-18-32(8-3)9-4;;/h13-16,21-22H,6-12,17-20H2,1-5H3;2*1H
